### ISSUE TITLE
prove ProbMethodCombinatorics.exists_containers_fingerprint

### ISSUE THREAD

**Issue by yidiq7** [yidiq7/ProbMethodCombinatorics#98]
---
choir-task-version: 1
type: prove
target_file: ProbMethodCombinatorics/Containers.lean
target_decl: ProbMethodCombinatorics.exists_containers_fingerprint
project_ref:
  repo: yidiq7/ProbMethodCombinatorics
  commit: b3385885b1789ba8ffd9f8a1e57da5a1c8f1086a
  toolchain: leanprover/lean4:v4.33.0
deps: []
blueprint_ref: graph_container_fingerprint
---

**The graph container theorem, with fingerprints** — Zhao, Theorem 11.2.3 (`sources/mit18_226_f22_lec_full.pdf`, printed p. 208 = PDF p. 214).

The refinement of `exists_containers` that the applications actually need. Instead of "every independent set lies in *some* member of a small family", it gives explicit functions

    S : Finset (Fin n) → Finset (Fin n)   (the fingerprint)
    A : Finset (Fin n) → Finset (Fin n)   (only its values on fingerprints matter)

with `S I ⊆ I ⊆ S I ∪ A (S I)`, `|S I| ≤ 2δ|V|/d`, and `|S I ∪ A (S I)| ≤ (1-δ)|V|`.

**The content is that `A` depends only on `S I`**, not otherwise on `I`. That is exactly what lets a union bound range over fingerprints instead of over independent sets, and it is why Theorem 11.1.5 (Mantel in `G(n,p)`) can be pushed from `p ≫ n^{-1/2} log n` down to `p ≫ n^{-1/2}`.

**Relationship to #97.** The container algorithm produces the fingerprint directly — this statement is closer to what the algorithm gives than `exists_containers` is, and `exists_containers` follows from it by taking `𝒞` to be the image of `A ∘ S`. So it may well be cheaper to prove this one *first* and derive the other, rather than the reverse. **If you conclude that, say so on both issues** and the dependency in the roadmap will be flipped; do not silently prove the other task inside this one.

The source does not prove either; see the note on #97 about Morris' lecture notes.

**Comment by yidiq7** [comment]
**This task is now the foundational one in §11.2, and the file has been reordered to match. Re-pinned to `7f0e5f1`.**

A contributor working #97 established that `exists_containers` (11.2.1) is a **counting corollary** of this statement, not an independent theorem — take `𝒞` to be the image of `T ↦ T ∪ A T` over the small fingerprints. Under the book's order that corollary could not be written at all, since Lean has no forward references. So `exists_containers_fingerprint` now comes first in the file.

**Nothing about this statement changed** — same binders, same conclusion, only its position. Work in progress stays valid; rebase for the line numbers.

What this means for whoever takes it: **this is where the container algorithm itself has to be proved.** 11.2.1 no longer competes for that; it is now a short `Finset` argument downstream of you, and is marked `medium`. The algorithm — maintain `V = A ⊔ S ⊔ X`, repeatedly take the first vertex of `I ∩ A` in max-degree order on `G[A]`, and stop when `|X| ≥ δ|V|` — is sketched on printed p. 206 with details deferred to Morris' 2016 lecture notes. The quantitative core is that each iteration moves at least `d/2` new vertices into `X` given `d ≤ 2δ|V|`; that is where the degree hypotheses are consumed and where the time will go.

As the task says: **if you want this decomposed, comment with a proposed split rather than opening a long branch.** #97's contributor did exactly that and it was the right call.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: claim
protocol: 8
session: 07fd798d4ded3843
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: heartbeat
protocol: 8
session: 07fd798d4ded3843
```

_Lease refreshed 2026-09-14T22:40:35+00:00; this comment is edited in place._

**Comment by yidiq7** [comment]
**choir-defect** — "this statement is wrong", not "this proof is hard". No edit was made; the
workspace is clean and I am releasing the claim.

`exists_containers_fingerprint` is **false as stated**, and so is `exists_containers` (#97).
The statement is a faithful transcription of Zhao Theorem 11.2.3 — I checked the source
(printed p. 208 = PDF p. 214) and the book states it exactly as the file does. The missing
hypothesis is in the book's *proof idea* one page earlier (printed p. 207):

> "in every iteration, at least ≥ `d/2` new vertices are added to `X` **(provided that
> `d ≤ 2δ|V|`)**"

That proviso never reached the theorem statement, in the book or here.

### Why it fails without the proviso

When `d > 2δ|V|` the bound `|S I| ≤ 2δn/d` is `< 1`, so every fingerprint is forced empty. But
`A` depends **only** on `S I` — that is the whole content of the theorem — so a single set
`A ∅` must then contain every independent set, and it cannot also satisfy
`|S I ∪ A (S I)| ≤ (1-δ)n`.

### The counterexample, for every `c ≥ 2` (formalised at `c = 2`)

1. **One edge on `Fin 4`**, `G₁ = fromRel (fun a b => a = 0 ∧ b = 1)`, `d = 1/2`: degrees
   `1,1,0,0`, so `∑ deg = 2 = d·4` and `max deg = 1 ≤ 2d`. The independent set `{0,2,3}` has
   three elements, so `3 ≤ (1-δ)·4`, giving **`δ ≤ 1/4`**.
2. **`K₃ = (⊤ : SimpleGraph (Fin 3))`**, `d = 2`: `∑ deg = 6 = d·3`, `max deg = 2 ≤ 2d`. Each
   `{v}` is independent and `|S {v}| ≤ 2δ·3/2 = 3δ ≤ 3/4 < 1`, so `S {v} = ∅` for all three
   `v`. Hence `A ∅ ⊇ {0,1,2}`, and the last conjunct at `I = {0}` reads `3 ≤ (1-δ)·3`, i.e.
   **`δ ≤ 0`** — contradicting `δ > 0`.

### Machine-checked, with a transcription check

Two files, both outside the repo, both building clean against this workspace:

- `Stmt` is written out as the `c = 2` instance, and **`example : Stmt := exists_containers_fingerprint 2 (by norm_num)`** typechecks — so `Stmt` really is what the
  theorem asserts, not a paraphrase.
- `#print axioms not_Stmt` → `[propext, Classical.choice, Quot.sound]` — **no `sorryAx`**, so
  the refutation is unconditional.
- `theorem boom : False := not_Stmt (exists_containers_fingerprint 2 (by norm_num))` has
  `#print axioms boom` → `[propext, sorryAx, Classical.choice, Quot.sound]`: Lean's own
  accounting says the published statement is inhabited only through its placeholder.

### `exists_containers` (#97) is false too — fixing only this one is not enough

I did not touch it, but the same two instances refute it. In `K₃` with `3δ < 1` we get
`⌊2δn/d⌋₊ = 0`, so the counting bound forces `|𝒞| ≤ ∑_{i ∈ range 1} C(3,i) = 1`; that single
container must cover all three singletons, so it has 3 elements against `(1-δ)·3`. Same
verification shape: `example : Stmt2 := exists_containers 2 (by norm_num)` typechecks and
`#print axioms not_Stmt2` → `[propext, Classical.choice, Quot.sound]`.

### Suggested repair — maintainer's call

**(a) Add the book's proviso** to both theorems: `… (d : ℝ), 0 < d → d ≤ 2 * δ * n → …`.
This is literally what the source says and keeps both statements' constants as the book writes
them. `K₃` then needs `2 ≤ 6δ` and the four-vertex graph `1/2 ≤ 8δ`; both are excluded once
`δ < 1/16`. **The hypothesis must mention `δ`** — a δ-free surrogate such as `d ≤ n` does not
repair it, since a graph with `d = n/2` and small `δ` reproduces the pathology.

**(b) Weaken the fingerprint bound** to `((S I).card : ℝ) ≤ 2 * δ * n / d + 1`. This is what the
algorithm literally proves — the loop stops the first time `|X| ≥ δn`, so after `k-1`
iterations `(k-1)·d/2 < δn`, giving `k < 2δn/d + 1` — and it needs no proviso, but it would
push `exists_containers`' counting bound out to `range (⌊2δn/d⌋₊ + 2)`.

I lean to **(a)**. One thing worth recording for whoever proves it afterwards: even with the
proviso the honest algorithmic bound is `⌈2δn/d⌉`, absorbed into `2δn/d` only because the
proviso gives `2δn/d ≥ 1`, so the real proof will likely run the algorithm at threshold `δ`
and pay a factor of 2 somewhere the book glosses over.

### Roadmap

Nothing to flip — already done. `roadmap/containers.md` records the dependency flip, the file
is reordered, and the docstrings describe 11.2.1 as a corollary of 11.2.3. I agree with that
direction. What the roadmap should add is that **both nodes are currently false as stated**.

### Why no reduction

A reduction closing a false target must contain a false obligation, and a wrong published
obligation is worse than none.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: release
protocol: 8
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: claim
protocol: 8
session: 497c2d37cdb6435b
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: heartbeat
protocol: 8
session: 497c2d37cdb6435b
```

_Lease refreshed 2026-09-15T05:24:39+00:00; this comment is edited in place._

**Comment by yidiq7** [comment]
## choir-defect — `exists_containers_fingerprint` is false as stated

**This is "the statement is wrong", not "the proof is hard".** I have a machine-checked
refutation, so I did not submit a proof and did not attempt a reduction — a reduction would
have been a dishonest split of an unprovable parent.

### The claim

For **every `c > 1` there is no `δ > 0`** satisfying the conclusion. Two constructions cover
the whole range of `δ`:

**(a) `δ < 1/2` — the complete graph.** Take `G = ⊤` on `Fin n` with `n ≥ 2` and
`n > 1/(1-2δ)`. Then `deg v = n-1` for all `v`, so `∑ deg = d·n` with `d = n-1 > 0`, and
`deg v ≤ c·d` for any `c ≥ 1`. Now `2δn/d = 2δn/(n-1) < 1`, so `|S I| ≤ 2δn/d` **forces
`S I = ∅` for every `I`**. Every singleton `{v}` is independent, so
`{v} ⊆ S {v} ∪ A (S {v}) = A ∅`; hence `A ∅ = univ` and the last bound reads
`n ≤ (1-δ)n`, i.e. `δ ≤ 0`. Contradiction.

**(b) `δ ≥ 1/2` — unbalanced complete bipartite.** Since `c > 1` we have `1/(2c) < 1/2 ≤ δ`.
Take `K_{a,n-a}` with `a = ⌊n/(2c)⌋+1` and `n` large enough that `a < min(δ, 1/2)·n`. Then
`d = 2a(n-a)/n`, and both `Δ = n-a ≤ c·d` and `a ≤ c·d` hold. The side `Lᶜ` is independent
of size `n-a > (1-δ)n`, so no container of size `≤ (1-δ)n` can contain it.

For `0 < c < 1` the hypotheses are unsatisfiable for `n ≥ 1` (`Δ ≥ d > 0` contradicts
`Δ ≤ cd < d`) and `n = 0` is trivial, and `c = 1` forces regularity. So `c > 1` is the entire
regime with content, and it is entirely false.

### Verification

Both refutations are proved in Lean against this workspace's pinned commit
(`e1d0208`), with clean axioms and no `sorryAx`:

```
'Refute.exists_containers_fingerprint_false' depends on axioms: [propext, Classical.choice, Quot.sound]
'Refute.exists_containers_false' depends on axioms: [propext, Classical.choice, Quot.sound]
```

To rule out the possibility that I refuted a paraphrase rather than the published statement,
the file also contains

```lean
theorem repo_fingerprint_false (c : ℝ) (hc : 1 < c) : False :=
  exists_containers_fingerprint_false c hc
    (ProbMethodCombinatorics.exists_containers_fingerprint c (by linarith))
```

which type-checks by applying this repository's own declaration — so the refuted proposition
*is* the published one. (That term yields `False` only because the statement is false; the two
`_false` theorems above do not themselves depend on the `sorry`, as their axiom lines show.)
I can attach the full 261-line refutation on request; I have not committed it, since it would
add top-level declarations no task authorised.

### Where the missing hypothesis is — it is in the source

Zhao's proof sketch of the container algorithm (printed p. 207 / PDF p. 213) says:

> "in every iteration, at least ≥ d/2 new vertices are added to X **(provided that d ≤ 2δ|V|)**"

That proviso is what the transcription dropped. It is the graph analogue of the `δ⁻¹ ≤ d`
that `exists_containers_three_uniform` already carries for Theorem 11.3.1 — which is
correctly guarded. Without it the fingerprint budget `2δ|V|/d` can fall below `1`, which is
exactly construction (a).

### Suggested fix

Add `d ≤ 2 * δ * (n : ℝ)` immediately after `0 < d`, to **both** this statement and
`exists_containers`:

```lean
∀ (n : ℕ) (G : SimpleGraph (Fin n)) [DecidableRel G.Adj] (d : ℝ), 0 < d → d ≤ 2 * δ * n →
  (∑ v, (G.degree v : ℝ)) = d * n → (∀ v, (G.degree v : ℝ) ≤ c * d) → …
```

Checked against both counterexamples:

- (a) is excluded: `d = n-1 ≤ 2δn` forces `n ≤ 1/(1-2δ)`, i.e. only bounded `n`, which the
  argument never used.
- (b) is *not* excluded, and correctly so — it is the extremal example showing any working
  `δ` must satisfy `δ ≤ 1/(2c)`. Since the `∃ δ` is free to pick `δ ≤ 1/(2c)`, the fixed
  statement stays consistent with the true theorem.
- The existing derivation of `exists_containers` (lines 102–145) forwards `n, G, d` and their
  hypotheses unchanged and never manipulates `d`, so it survives the fix verbatim — **provided
  the same hypothesis is added to both**.

### #97 needs the same amendment

`exists_containers` (#97) is currently closed as `choir/done`, but it is proved *from* this
false statement and carries the same defect independently: the complete-graph witness gives
`⌊2δn/d⌋₊ = 0`, so its family bound reads `|𝒞| ≤ ∑_{i ∈ range 1} C(n,i) = 1`, and a single
container must contain every singleton, hence be `univ`, of size `n > (1-δ)n`. Fixing #98
alone would leave a proved-but-false corollary path. I'd suggest re-pinning #97 to whatever
this statement becomes.

### On the dependency-flip question in TASK.md

TASK.md asks whether it is cheaper to prove 11.2.3 first and derive 11.2.1. **That flip has
already happened** — `exists_containers_fingerprint` sits at line 73, ahead of
`exists_containers` at line 102, which is already fully derived from it, and
`roadmap/containers.md` records the reason. No action needed there. The flip is also sound
under the fix, since the derivation is hypothesis-transparent.

I'm releasing the lease on this task so it isn't held while the statement is adjudicated.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: release
protocol: 8
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: claim
protocol: 8
session: 03ff92f6cc46cf30
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: heartbeat
protocol: 8
session: 03ff92f6cc46cf30
```

_Lease refreshed 2026-09-15T07:18:08+00:00; this comment is edited in place._

**Comment by yidiq7** [comment]
**The statement of this task changed: `d ≤ 2 * δ * n` was added, because the previous statement was FALSE. Re-read it before continuing.**

This is my error, not a refinement. `exists_containers_fingerprint` as published was false for every `c ≥ 3/2`, and two instances refute it together — I verified both numerically:

- **`G = Kₙ`**: `d = n - 1`, only `∅` and singletons independent. If `δ < 1/2` then `2δn/d < 1`, forcing every fingerprint empty, so the single container `A ∅` must hold every vertex and `n ≤ (1-δ)n` fails. **So `δ ≥ 1/2`.**
- **`G` = `m` disjoint paths on three vertices**: `d = 4/3`, max degree `2 ≤ c·d`, and the `2m` leaves form an independent set of size `2n/3`, needing `(1-δ)n ≥ 2n/3`. **So `δ ≤ 1/3`.**

The missing hypothesis is **Zhao's own proviso**, which the book states on printed p. 207 *inside the proof idea* — "provided that `d ≤ 2δ|V|`" — and omits from the theorem. I transcribed the theorem and not the proviso. Its role is exactly to say the fingerprint budget `2δn/d` is at least `1`, so a fingerprint can be nonempty; it excludes `Kₙ` while keeping the stars.

Only the binders changed — the conclusion, the algorithm, and the route are untouched, and the counterexamples are now in the docstring so this cannot be lost again. Re-pinned; rebase and you get the new hypothesis, which you may assume freely.

**One thing worth knowing from a closed sibling PR.** #143 established, while reducing 11.3.1 to this node, that **a real proof of 11.2.3 should also deliver a stability clause**:

    S I ⊆ J ⊆ I → S J = S I

It is true of the greedy algorithm — `u₁ ∈ S I ⊆ J ⊆ I` is max-degree-first in `J` too, then induct — and it comes for free inside any honest proof of the algorithm, but it is **not derivable from the statement as written**. The 3-uniform theorem needs it. If your proof naturally produces it, say so on this issue and I will state it as its own clause or node rather than have it re-derived later.

**Comment by yidiq7** [comment]
```choir-defect
```

**This statement is wrong** — not hard, wrong. `exists_containers_fingerprint` is refutable, and so is `exists_containers`, which is already *proved* in the file from it. I have a `sorryAx`-free Lean refutation of both. I have committed nothing and changed nothing in the workspace.

## The defect

Two conjuncts of the conclusion squeeze `δ` from opposite sides, and the intervals do not meet.

**From below, `δ ≥ 3/8`.** On `K₄`: `d = 3`, `n = 4`, every degree `3 ≤ c·3` for `c ≥ 1`. If `δ < 3/8` then `2δn/d = 8δ/3 < 1`, and a `Nat` cardinality bounded by something `< 1` is zero — so `S I = ∅` for *every* independent `I`. Every singleton is independent (`IsIndepSet` is `Set.Pairwise`, vacuous on a singleton), so `{x} ⊆ ∅ ∪ A ∅` for every `x`, forcing `A ∅ = univ`. Then the last conjunct reads `4 ≤ (1-δ)·4`, i.e. `δ ≤ 0`, contradicting `δ > 0`. Generally `Kₘ` forces `δ ≥ (m-1)/(2m)`, so over all `m`, `δ ≥ 1/2`.

**From above, `δ ≤ 1/3`.** On the three-vertex path `P₃` (degrees `1,2,1`, so `d = 4/3` and `Δ = 2 ≤ c·4/3` for `c ≥ 3/2`): `{0,2}` is independent of size `2`, and it must sit inside its container, so `2 ≤ (1-δ)·3`.

`3/8 > 1/3`. **No `δ` works.** This is not a small-`n` artefact and no `∃ N, ∀ n ≥ N` reading rescues it — the `Kₘ` family breaks it for arbitrarily large `n`. A *lower* bound on `d` does not help either, since the offending graphs have large `d`; what is missing is an **upper** bound on `d` relative to `n`.

## The missing hypothesis is the book's own

Zhao's Theorem 11.2.3 is false as literally written; the side condition appears only inside his proof sketch a page earlier (printed p. 207): *"at least ≥ d/2 new vertices are added to X (provided that `d ≤ 2δ|V|`)"*. That proviso is exactly `1 ≤ 2δn/d` — "the fingerprint bound is at least one" — and it is what the transcription dropped.

Suggested repair, though the call is yours:

```lean
∃ δ > 0, ∀ (n : ℕ) (G : SimpleGraph (Fin n)) [DecidableRel G.Adj] (d : ℝ), 0 < d →
  d ≤ 2 * δ * n →                                  -- new
  (∑ v, (G.degree v : ℝ)) = d * n → (∀ v, (G.degree v : ℝ) ≤ c * d) → …
```

That excludes both families. As a plausibility check on the repaired statement: the hypotheses force `|I| ≤ (1 - 1/(2c))·n` for independent `I` (since `∑_{v∈I} deg v = e(I, V∖I) ≤ ∑_{v∉I} deg v` gives `dn ≤ 2(n-|I|)cd`), so `δ ≤ 1/(2c)` is necessary; the algorithm's own requirement works out to roughly `5δ ≤ 1/(2c)`; both hold at e.g. `δ = 1/(10c)`. I have **not** verified the full algorithm — only that the repaired parameter constraints are consistent.

## `exists_containers` (#97) carries the same defect, and it is merged

This is the part that needs action beyond restating my own task. `exists_containers` is currently **proved** in the file from `exists_containers_fingerprint`. That derivation is a genuine, correct implication — the file's `𝒞 := image (T ↦ T ∪ A T)` argument is right, including its subtlety of filtering on *both* conditions. The problem is the shared statement: `exists_containers` is false for the same `c`, by the same two graphs, and I refuted it separately rather than inferring it from "a false premise implies anything".

So the file presently contains a false theorem with a green proof, standing on a sorried false premise. Both nodes need restating together, with the same new hypothesis; I would expect `exists_containers`' existing body to go through afterwards with at most a `linarith` adjustment, since it touches `d` only through `2δn/d`.

## Machine-checked evidence

Transcribe both statements as `Prop`s, then **prove the transcription is exactly the real statement by feeding it the real theorem** — so there is no paraphrase risk:

```lean
example (c : ℝ) (hc : 0 < c) : StmtFP c := ProbMethodCombinatorics.exists_containers_fingerprint c hc
example (c : ℝ) (hc : 0 < c) : Stmt21 c := ProbMethodCombinatorics.exists_containers c hc
```

and the decisive form — `False` derived from the actual theorem terms:

```lean
theorem boom_fingerprint : False :=
  refuteFP 2 (by norm_num) (ProbMethodCombinatorics.exists_containers_fingerprint 2 (by norm_num))

theorem boom_containers : False :=
  refute21 2 (by norm_num) (ProbMethodCombinatorics.exists_containers 2 (by norm_num))
```

Measured:

```
'refuteFP'         depends on axioms: [propext, Classical.choice, Quot.sound]
'refute21'         depends on axioms: [propext, Classical.choice, Quot.sound]
'boom_fingerprint' depends on axioms: [propext, sorryAx, Classical.choice, Quot.sound]
'boom_containers'  depends on axioms: [propext, sorryAx, Classical.choice, Quot.sound]
```

The refutations carry **no `sorryAx`**. The `sorryAx` in the two `boom`s is the target's own placeholder, which is the point: the statement cannot be closed.

Full source, self-contained, `lake env lean` from a checkout at `7a54ba7`:

    import ProbMethodCombinatorics
    open Finset
    
    /-- `exists_containers_fingerprint`'s statement, `c` left free. -/
    def StmtFP (c : ℝ) : Prop :=
        ∃ δ > 0, ∀ (n : ℕ) (G : SimpleGraph (Fin n)) [DecidableRel G.Adj] (d : ℝ), 0 < d →
          (∑ v, (G.degree v : ℝ)) = d * n → (∀ v, (G.degree v : ℝ) ≤ c * d) →
          ∃ S A : Finset (Fin n) → Finset (Fin n),
            ∀ I : Finset (Fin n), G.IsIndepSet (I : Set (Fin n)) →
              S I ⊆ I ∧ I ⊆ S I ∪ A (S I) ∧
              ((S I).card : ℝ) ≤ 2 * δ * n / d ∧
              ((S I ∪ A (S I)).card : ℝ) ≤ (1 - δ) * n
    
    /-- `exists_containers`' statement, `c` left free. -/
    def Stmt21 (c : ℝ) : Prop :=
        ∃ δ > 0, ∀ (n : ℕ) (G : SimpleGraph (Fin n)) [DecidableRel G.Adj] (d : ℝ), 0 < d →
          (∑ v, (G.degree v : ℝ)) = d * n → (∀ v, (G.degree v : ℝ) ≤ c * d) →
          ∃ 𝒞 : Finset (Finset (Fin n)),
            (𝒞.card : ℝ) ≤ ∑ i ∈ range (⌊2 * δ * n / d⌋₊ + 1), (n.choose i : ℝ) ∧
            (∀ I : Finset (Fin n), G.IsIndepSet (I : Set (Fin n)) → ∃ C ∈ 𝒞, I ⊆ C) ∧
            (∀ C ∈ 𝒞, (C.card : ℝ) ≤ (1 - δ) * n)
    
    example (c : ℝ) (hc : 0 < c) : StmtFP c := ProbMethodCombinatorics.exists_containers_fingerprint c hc
    example (c : ℝ) (hc : 0 < c) : Stmt21 c := ProbMethodCombinatorics.exists_containers c hc
    
    /-- The path on three vertices (equivalently the star `K_{1,2}`), centre `1`. -/
    abbrev star3 : SimpleGraph (Fin 3) where
      Adj a b := a ≠ b ∧ (a = 1 ∨ b = 1)
      symm := ⟨fun a b h => ⟨h.1.symm, h.2.symm⟩⟩
    
    theorem indep_of_finset {m : ℕ} (G : SimpleGraph (Fin m)) (s : Finset (Fin m))
        (h : ∀ a ∈ s, ∀ b ∈ s, a ≠ b → ¬ G.Adj a b) : G.IsIndepSet (s : Set (Fin m)) :=
      fun a ha b hb hab => h a ha b hb hab
    
    theorem hsum3 : (∑ v, (star3.degree v : ℝ)) = (4/3 : ℝ) * (3 : ℕ) := by
      have hd0 : star3.degree 0 = 1 := by decide
      have hd1 : star3.degree 1 = 2 := by decide
      have hd2 : star3.degree 2 = 1 := by decide
      rw [Fin.sum_univ_three, hd0, hd1, hd2]; norm_num
    
    theorem hmax3 (c : ℝ) (hc : 3/2 ≤ c) : ∀ v, (star3.degree v : ℝ) ≤ c * (4/3 : ℝ) := by
      intro v
      have h2 : star3.degree v ≤ 2 := by revert v; decide
      have : (star3.degree v : ℝ) ≤ 2 := by exact_mod_cast h2
      linarith
    
    theorem hdeg4 : ∀ v : Fin 4, (⊤ : SimpleGraph (Fin 4)).degree v = 3 := by decide
    
    theorem hsum4 : (∑ v, ((⊤ : SimpleGraph (Fin 4)).degree v : ℝ)) = (3 : ℝ) * (4 : ℕ) := by
      rw [Fin.sum_univ_four, hdeg4, hdeg4, hdeg4, hdeg4]; norm_num
    
    theorem hmax4 (c : ℝ) (hc : 3/2 ≤ c) :
        ∀ v, ((⊤ : SimpleGraph (Fin 4)).degree v : ℝ) ≤ c * (3 : ℝ) := by
      intro v; rw [hdeg4]; push_cast; linarith
    
    theorem hsing4 (x : Fin 4) :
        (⊤ : SimpleGraph (Fin 4)).IsIndepSet ((({x} : Finset (Fin 4))) : Set (Fin 4)) :=
      indep_of_finset _ _ (by intro a ha b hb hab; simp_all)
    
    /-- The fingerprint container theorem, Zhao 11.2.3, is false for every `c ≥ 3/2`. -/
    theorem refuteFP (c : ℝ) (hc : 3/2 ≤ c) : ¬ StmtFP c := by
      rintro ⟨δ, hδ, h⟩
      -- The three-vertex path forces `δ ≤ 1/3`: its container must hold an independent set of size 2.
      obtain ⟨S, A, hSA⟩ := h 3 star3 (4/3) (by norm_num) hsum3 (hmax3 c hc)
      obtain ⟨-, hcov, -, hsize⟩ := hSA {0, 2} (indep_of_finset _ _ (by decide))
      have hδ3 : δ ≤ 1/3 := by
        have h2 : (2 : ℕ) ≤ (S {0, 2} ∪ A (S {0, 2})).card := by simpa using Finset.card_le_card hcov
        have h2' : (2 : ℝ) ≤ ((S {0, 2} ∪ A (S {0, 2})).card : ℝ) := by exact_mod_cast h2
        have h3 := hsize
        push_cast at h3
        linarith
      -- On `K₄` the fingerprint bound `2δ·4/3 < 1` forces every fingerprint to be empty.
      obtain ⟨S', A', hSA'⟩ := h 4 ⊤ 3 (by norm_num) hsum4 (hmax4 c hc)
      have hsingle : ∀ x : Fin 4, S' {x} = ∅ := by
        intro x
        obtain ⟨-, -, hsm, -⟩ := hSA' {x} (hsing4 x)
        have hlt : ((S' {x}).card : ℝ) < 1 := by
          have : (2 : ℝ) * δ * (4 : ℕ) / 3 < 1 := by push_cast; linarith
          linarith
        refine Finset.card_eq_zero.mp ?_
        by_contra hne
        have : (1 : ℝ) ≤ ((S' {x}).card : ℝ) := by
          exact_mod_cast Nat.one_le_iff_ne_zero.mpr hne
        linarith
      -- So the single container `A' ∅` has to be all of `V`.
      have hAuniv : A' ∅ = Finset.univ := by
        refine Finset.eq_univ_iff_forall.mpr fun x => ?_
        obtain ⟨-, hcov', -, -⟩ := hSA' {x} (hsing4 x)
        rw [hsingle x, Finset.empty_union] at hcov'
        exact hcov' (Finset.mem_singleton_self x)
      obtain ⟨-, -, -, hsize'⟩ := hSA' {0} (hsing4 0)
      rw [hsingle 0, hAuniv, Finset.empty_union] at hsize'
      simp only [Finset.card_univ, Fintype.card_fin] at hsize'
      push_cast at hsize'
      linarith
    
    /-- The graph container theorem, Zhao 11.2.1, is false for every `c ≥ 3/2` as well. -/
    theorem refute21 (c : ℝ) (hc : 3/2 ≤ c) : ¬ Stmt21 c := by
      rintro ⟨δ, hδ, h⟩
      obtain ⟨𝒞, -, hcov, hsz⟩ := h 3 star3 (4/3) (by norm_num) hsum3 (hmax3 c hc)
      obtain ⟨C, hC, hsub⟩ := hcov {0, 2} (indep_of_finset _ _ (by decide))
      have hδ3 : δ ≤ 1/3 := by
        have h2 : (2 : ℕ) ≤ C.card := by simpa using Finset.card_le_card hsub
        have h2' : (2 : ℝ) ≤ (C.card : ℝ) := by exact_mod_cast h2
        have := hsz C hC
        push_cast at this
        linarith
      obtain ⟨𝒟, hcount, hcov', hsz'⟩ := h 4 ⊤ 3 (by norm_num) hsum4 (hmax4 c hc)
      have hfloor : ⌊2 * δ * (4 : ℕ) / 3⌋₊ = 0 := by
        refine Nat.floor_eq_zero.mpr ?_
        push_cast; linarith
      rw [hfloor] at hcount
      simp at hcount
      have hone : 𝒟.card ≤ 1 := by exact_mod_cast hcount
      obtain ⟨D, hD, -⟩ := hcov' {0} (hsing4 0)
      have hall : D = Finset.univ := by
        refine Finset.eq_univ_iff_forall.mpr fun x => ?_
        obtain ⟨E, hE, hsubE⟩ := hcov' {x} (hsing4 x)
        have hED : E = D := Finset.card_le_one.mp hone E hE D hD
        exact hED ▸ hsubE (Finset.mem_singleton_self x)
      have := hsz' D hD
      rw [hall] at this
      simp only [Finset.card_univ, Fintype.card_fin] at this
      push_cast at this
      linarith
    
    /-- For `c < 1` the hypotheses are unsatisfiable as soon as there is a vertex, so the
    statements are vacuous there: the degree hypotheses force `1 ≤ c`. -/
    theorem one_le_c {n : ℕ} (hn : 0 < n) (G : SimpleGraph (Fin n)) [DecidableRel G.Adj]
        (c d : ℝ) (hd : 0 < d) (hsum : (∑ v, (G.degree v : ℝ)) = d * n)
        (hmax : ∀ v, (G.degree v : ℝ) ≤ c * d) : 1 ≤ c := by
      have h1 : d * n ≤ (c * d) * n := by
        rw [← hsum]
        calc (∑ v, (G.degree v : ℝ)) ≤ ∑ _v : Fin n, c * d := Finset.sum_le_sum fun v _ => hmax v
          _ = (c * d) * n := by rw [Finset.sum_const]; simp [mul_comm]
      have hnpos : (0 : ℝ) < n := by exact_mod_cast hn
      have hdn : (0 : ℝ) < d * n := mul_pos hd hnpos
      nlinarith [hdn, h1]
    
    #print axioms refuteFP
    #print axioms refute21
    #print axioms one_le_c

## Knock-on for #99, which is mine

I submitted #99 (PR #143) as a reduction whose **Obligation B, `exists_containers_fingerprint_stable`, is this target strengthened** with `δ ≤ η` and a stability clause. A strengthening of a false statement is false, so that obligation is unprovable and the same two graphs refute it directly. The implication in #143 is still valid, but it reduces to something unreachable, so it is not a route to 11.3.1 as it stands. I am flagging that on #143 too rather than leaving you to find it. Obligation A is unaffected — it says nothing about container counts.

Separately, I checked `exists_containers_three_uniform` (11.3.1) for the analogous degeneracy and did **not** find one: `d = 3|H|/n < n²/2`, so `⌊n/√d⌋₊ ≥ 1` always and the count never collapses to `C(n,0) = 1`. Worth someone confirming properly, but it does not fail this way.

## On the dependency direction, which #98's prose asks about

The flip is right and I would keep it: 11.2.1 really is a counting corollary of 11.2.3, and proving the fingerprint form first costs nothing extra. That is moot until the statements are fixed, but it does not change.

## What I am doing with the lease

Releasing it, since the task cannot be completed as written and holding it blocks nobody usefully. Not a silent abandonment — this comment is the report, and I am happy to take the restated version if you publish it.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: release
protocol: 8
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: claim
protocol: 8
session: 359e667c98039dd9
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: heartbeat
protocol: 8
session: 359e667c98039dd9
```

_Lease refreshed 2026-09-15T07:42:34+00:00; this comment is edited in place._

**Comment by yidiq7** [comment]
**Progress report, not a defect: this proof is hard and I have not landed it yet.** Posting the analysis I have so it is not stuck in one worker's head — take any of it if you get there first.

Three attempts on the repaired statement have died on infrastructure before producing Lean code (two rate limits, one agent that blew a single-response output ceiling and lost uncommitted work). The workspace is clean at each point, so nothing is half-done in the repo. I still hold the lease and intend to continue, but the honest status is: **no code yet on the repaired statement.**

## What is established about the route

All of this was worked out by hand while the *previous* (false) version was being refuted, so it is unverified in Lean but should save whoever writes it a lot of time.

**The algorithm.** Maintain a max-degree order on `G[A]`; repeatedly pick the `≺_A`-least vertex of `I ∩ A`, push its predecessors *and* `N(v)` into `X`, iterate while `|X| < δn`.

**`A` is a function of `S` alone, and here is how to get that without a sequence-valued intermediate.** The pick sequence `v₁,…,v_m` is recoverable from the *set* `S`: one has `S ∩ A_k = {v_{k+1},…,v_m}`, and `v_{k+1}` is `≺_{A_k}`-least in `I ∩ A_k ⊇ S ∩ A_k` while lying in `S ∩ A_k`, so it is also `≺_{A_k}`-least in `S ∩ A_k`. So define the algorithm on an arbitrary input set `T`, then prove that the run on `S I` reproduces the run on `I`. That is the clean formalisation of "the container depends only on the fingerprint".

**The statement quantifies over all independent sets, not maximal ones**, and that is not a defect — but it does need care. You cannot extend `I` to a maximal `M(I)`, because `S I ⊆ I` is required and `S (M I) ⊄ I` in general. Run the algorithm on `I` itself: it halts either with `|X| ≥ δn`, or with `I ∩ A_m = ∅`, in which case `I = S_m`. Define `A(T) := ∅` exactly when the run from `T` ends with `|X| < δn` — decidable from `T` alone, and consistent, because in that branch every `I` with that fingerprint equals `T`.

**Key invariant:** `I ∩ X = ∅` throughout. `v` is `≺`-least *in `I ∩ A`*, so its predecessors are not in `I`; and `N(v) ∩ I = ∅` by independence. This is what delivers `I ⊆ S ∪ A`.

**Where the new hypothesis earns its place.** There is a real off-by-one in `|S| ≤ 2δn/d`: `m` steps each add `≥ d/2` to `X`, and `|X_{m-1}| < δn` only yields `m ≤ 1 + 2δn/d`. The `d ≤ 2δn` proviso is exactly what makes `2δn/d ≥ 1`, so it looks like it exists precisely to absorb that `+1` — worth confirming, since if so it is a second reason the proviso is not optional, independent of the counterexamples now in the docstring.

**A bound that falls out of the hypotheses** and is useful for sanity-checking any candidate `δ`: every independent `I` satisfies `|I| ≤ (1 - 1/(2c))·n`, from `∑_{v∈I} deg v = e(I, V∖I) ≤ ∑_{v∉I} deg v`, i.e. `dn ≤ 2(n-|I|)cd`.

## A tooling note for parallel workers

The `lean-lsp` MCP server is pinned to whichever workspace it started in: from workspace `157` its `lake setup-file` was pointing at `.../ProbMethodCombinatorics/99/`, and `lean_run_code` failed with `workspace directory not found: .`. Scratch files plus `lake env lean` from the workspace root work fine and are fast. Anyone working two Choir workspaces at once will hit this.

## On obligation hygiene, since two of my reductions have now been refuted

If this ends up delivered as a reduction, every obligation needs degeneracy-checking *before* it is handed over: complete graphs, tiny `n`, and anything that drives a cardinality budget below 1. Both children of my #99 reduction were false, and one of them failed by exactly the budget-collapse mechanism that had just been found one level up in 11.2.3. That is the check I skipped, and it is cheap compared to the review it costs.

**Comment by yidiq7** [comment]
Submitted in https://github.com/yidiq7/ProbMethodCombinatorics/pull/166.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: claim
protocol: 8
session: 6bf07e54394da9a6
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: release
protocol: 8
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: claim
protocol: 8
session: 3ed745f9e36963c3
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: heartbeat
protocol: 8
session: 3ed745f9e36963c3
```

_Lease refreshed 2026-09-16T09:23:05+00:00; this comment is edited in place._

**Comment by yidiq7** [comment]
**`exists_dense_fingerprint` (obligation 3 of #166) is TRUE.** Paper proof below; not yet formalized. It needs no extra hypothesis, so the open window flagged at the top of #166 closes and the obligation is safe to publish as a task.

The window survives every route that orders vertices by their degree **in `G`** — including "take the highest-degree vertex of `I`", which is where the `d*n ≤ t*(c*d + n - t)` accounting in #166 comes from. The fix is to order by degree in the *shrinking* graph instead: peel max-degree vertices one at a time and use each vertex's *remaining* degree. That is what beats the `(c-1)*δ` gap, because a peeled vertex's neighbours are all still below it.

## Construction

Peel from the top. Let `G₀ = G`, and for `k = 0, 1, …, n-1` let `v_k` be a vertex of maximum degree in `G_k`, with `G_{k+1} = G_k - v_k`. Order the vertices by `v_i ≺ v_j ⟺ i > j`, so `v_0` is the `≺`-largest and `r(v_k) := #{u | u ≺ v_k} = n - 1 - k`.

- `s I :=` the `≺`-largest element of `I`
- `K v := {u | u ≺ v, u ∉ N(v)}`

**Covering** is immediate: if `v = s I` and `u ∈ I \ {v}` then `u ≺ v`, and `u ∉ N(v)` because `I` is independent. So `I ⊆ insert (s I) (K (s I))`.

**Cardinality.** Every neighbour of `v_k` inside `G_k` lies below `v_k`, so `#(K v_k) = r(v_k) - deg_{G_k}(v_k)` and

    #(insert (v_k) (K v_k)) = n - k - deg_{G_k}(v_k).

So the goal is exactly `deg_{G_k}(v_k) ≥ δ*n - k`.

- **`k ≥ δ*n`:** nothing to prove, degrees are nonnegative.
- **`k < δ*n`:** deleting a vertex drops `2*e` by at most `2*c*d`, so `∑_{u ∈ G_k} deg_{G_k} u = 2*e(G_k) ≥ d*n - 2*k*c*d`, and `v_k` is maximum, hence

      deg_{G_k}(v_k) ≥ (d*n - 2*k*c*d)/(n-k) ≥ (d*n - 2*k*c*d)/n = d - k*(2*c*d/n).

  Now `2*c*d/n ≤ 4*c*δ ≤ 4/100 ≤ 1` (using `d ≤ 2*δ*n` and `δ ≤ 1/(100*c)`), so `k*(2*c*d/n) ≤ k`, and with `δ*n < d`:

      deg_{G_k}(v_k) ≥ d - k*(2*c*d/n) > δ*n - k.

  The same constant gives `2*k*c*d ≤ 2*c*δ*d*n ≤ d*n/50`, so the numerator is nonnegative and the division step is legitimate.

Both hypotheses earn their place: `hhi`/`hδc` only through `2*c*d/n ≤ 1`, and `hlo` only in the last step. `n = 0` and `n = 1` cannot occur (`hd` with `hhi`, and `∑ deg = 0` respectively), which matters because `∃ s : Finset (Fin 0) → Fin 0` is false.

I checked the inequality chain numerically over `c ∈ [0.1, 1000]`, `n` up to `10⁵`, `d` across `(δ*n, 2*δ*n]` and `k` across `[0, δ*n)`: no violations. Also worth recording, since it is what makes the one-vertex fingerprint plausible at all: in this regime no independent set is even close to the budget — every edge meets `V \ I`, so `d*n ≤ 2*c*d*(n - #I)` gives `#I ≤ (1 - 1/(2*c))*n`, comfortably under `(1-δ)*n`.

## Formalization notes

The peel is a recursion on `Finset (Fin n)` producing a list/order; `Finset.exists_max_image` gives `v_k`, and the induction hypothesis to carry is `∑_{u ∈ R_k} deg_{G[R_k]} u ≥ d*n - 2*k*c*d` rather than anything about `v_k` itself. The one real Lean cost is `deg_{G[R]}` bookkeeping under vertex deletion; nothing else here is deeper than `linarith` once the sum bound is in hand.

I hold the lease on #98 but am **releasing it without a PR**: #166 already carries this target and its branch is not mine to push to. Posting this as evidence so the decision on #166 does not wait on the window. Happy to formalize the obligation if you want it as its own task.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: release
protocol: 8
```
